### PR TITLE
[Merged by Bors] - feat: improper integrals of 1/(1 + x^2)

### PR DESCRIPTION
**Pull request by llllvvuu**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by llllvvuu** [comment]
(context: content from `PrimeNumberTheoremAnd`: https://github.com/AlexKontorovich/PrimeNumberTheoremAnd/pull/24)

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 1]
```diff
@@ -177,3 +177,32 @@ theorem integral_Ioi_cpow_of_lt {a : ℂ} (ha : a.re < -1) {c : ℝ} (hc : 0 < c
...
+  have (x : ℝ) : ‖1 / (1 + x ^ 2)‖ = 1 / (1 + x ^ 2) := norm_of_nonneg (by positivity)
+  refine integrable_of_intervalIntegral_norm_tendsto π (fun i ↦ ?_) tendsto_neg_atTop_atBot
+    tendsto_id (by simpa only [this] using intervalIntegral_one_div_one_add_sq_tendsto)
+  by_cases hi : i = 0
+  · rewrite [hi, Set.Ioc_eq_empty (by norm_num)]; exact integrableOn_empty
+  · refine (intervalIntegral.intervalIntegrable_of_integral_ne_zero ?_).1
+    simp [← two_mul, arctan_ne_zero hi]
+
+theorem integral_Iic_one_div_one_add_sq {i : ℝ} :
+    ∫ (x : ℝ) in Set.Iic i, 1 / (1 + x ^ 2) = arctan i + (π / 2) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:196]: I wonder if we have a stated preference for closed or open intervals in integrals; if we do, we should follow it.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean [hunk 2]
```diff
@@ -162,6 +162,20 @@ theorem arcsin_eq_arctan {x : ℝ} (h : x ∈ Ioo (-(1 : ℝ)) 1) :
 theorem arctan_zero : arctan 0 = 0 := by simp [arctan_eq_arcsin]
 #align real.arctan_zero Real.arctan_zero
 
+@[mono]
+theorem arctan_strictMono : StrictMono arctan := tanOrderIso.symm.strictMono
+
+theorem arctan_injective : arctan.Injective := arctan_strictMono.injective
+
+theorem arctan_ne_zero {x : ℝ} (hx : x ≠ 0) : arctan x ≠ 0 :=
+  fun h ↦ hx <| arctan_injective (h.trans arctan_zero.symm)
```
[the remark this answers is not in the document]
Comment (llllvvuu) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Arctan.lean]: removed

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean (hunk 1 above)
Comment (llllvvuu) [reply Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:197]: I extrapolated from the very small sample size of this file. Now might be the time to establish such a convention

Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:195]: I would suggest closed (as already implemented here) since [intervalIntegral](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/IntervalIntegral.html#intervalIntegral) uses `Set.Ioc` under the hood. That way if you were to subtract two of these `Set.Iic` integrals, you would get an `intervalIntegral` more easily.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 3]
```diff
@@ -177,3 +177,31 @@ theorem integral_Ioi_cpow_of_lt {a : ℂ} (ha : a.re < -1) {c : ℝ} (hc : 0 < c
   simp_rw [neg_neg, Complex.norm_eq_abs, Complex.abs_cpow_eq_rpow_re_of_pos hx, Complex.add_re,
     Complex.one_re]
 #align integral_Ioi_cpow_of_lt integral_Ioi_cpow_of_lt
+
+private theorem intervalIntegral_one_div_one_add_sq_tendsto :
+    Tendsto (fun i => ∫ (x : ℝ) in -i..i, 1 / (1 + x ^ 2)) atTop (𝓝 π) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:182]: I think you should prefer `(1 + x ^ 2)⁻¹` throughout this PR since that is the simp normal form. Of course, please rename the lemmas appropriately too.

Also, it's a minor point but you can strengthen this lemma to `𝓝[<] π`.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 4]
```diff
@@ -177,3 +177,36 @@ theorem integral_Ioi_cpow_of_lt {a : ℂ} (ha : a.re < -1) {c : ℝ} (hc : 0 < c
   simp_rw [neg_neg, Complex.norm_eq_abs, Complex.abs_cpow_eq_rpow_re_of_pos hx, Complex.add_re,
     Complex.one_re]
 #align integral_Ioi_cpow_of_lt integral_Ioi_cpow_of_lt
+
+theorem intervalIntegral_inv_one_add_sq_tendsto :
+    Tendsto (fun i => ∫ (x : ℝ) in -i..i, (1 + x ^ 2)⁻¹) atTop (𝓝[<] π) := by
+  convert TendstoNhdsWithinIio.const_mul (b := 2) (by norm_num) arctan_atTop <;> simp [two_mul]
+
+@[simp]
+theorem integrable_inv_one_add_sq : Integrable fun (x : ℝ) ↦ (1 + x ^ 2)⁻¹ := by
```
Comment (mcdoll) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:186]: this is a special case of [integrable_rpow_neg_one_add_norm_sq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/JapaneseBracket.html#integrable_rpow_neg_one_add_norm_sq)

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 5]
```diff
@@ -177,3 +178,30 @@ theorem integral_Ioi_cpow_of_lt {a : ℂ} (ha : a.re < -1) {c : ℝ} (hc : 0 < c
...
+
+@[simp]
+theorem integral_Ioi_inv_one_add_sq {i : ℝ} :
+    ∫ (x : ℝ) in Set.Ioi i, (1 + x ^ 2)⁻¹ = (π / 2) - arctan i :=
+  integral_Ioi_of_hasDerivAt_of_tendsto' (fun _ _ => by rw [← one_div]; apply hasDerivAt_arctan)
+    integrable_inv_one_add_sq.integrableOn (tendsto_nhds_of_tendsto_nhdsWithin arctan_atTop)
+
+@[simp]
+theorem integral_volume_inv_one_add_sq : ∫ (x : ℝ), (1 + x ^ 2)⁻¹ = π :=
+  tendsto_nhds_unique
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:205]: It looks like we are missing a lemma `integral_of_hasDerivAt_of_tendsto'` similar to the ones on`Ioi` and `Iic` but for the whole line. Do you think you could add it, and use it to derive the result here (probably dropping `intervalIntegral_inv_one_add_sq_tendsto`)?

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 6]
```diff
@@ -859,6 +859,15 @@ theorem _root_.HasCompactSupport.integral_Iic_deriv_eq (hf : ContDiff ℝ 1 f)
   rw [hasCompactSupport_iff_eventuallyEq, Filter.coclosedCompact_eq_cocompact] at h2f
   exact h2f.filter_mono _root_.atBot_le_cocompact |>.tendsto
 
+theorem integral_of_hasDerivAt_of_tendsto
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:862]: Could you move it to another section like `univFTC`, that we will maybe extend later on? This lemma doesn't really belong to `IicFTC`.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 7]
```diff
@@ -861,6 +861,22 @@ theorem _root_.HasCompactSupport.integral_Iic_deriv_eq (hf : ContDiff ℝ 1 f)
...
 
+section UnivFTC
+
+variable {E : Type*} {f f' : ℝ → E} {g g' : ℝ → ℝ} {a b l : ℝ} {m n : E} [NormedAddCommGroup E]
+  [NormedSpace ℝ E] [CompleteSpace E]
+
+theorem integral_of_hasDerivAt_of_tendsto
+    (hderiv : ∀ x, HasDerivAt f (f' x) x) (hf' : Integrable f')
+    (hbot : Tendsto f atBot (𝓝 m)) (htop : Tendsto f atTop (𝓝 n)) : ∫ x, f' x = n - m := by
+  rewrite [← integral_univ, ← Set.Iic_union_Ioi (a := 0),
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:872]:
```suggestion
  rw [← integral_univ, ← Set.Iic_union_Ioi (a := 0),
```
The usual spelling is `rw`, not `rewrite`.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
